US03952031
2β-(2-ethoxycarbonylethoxy)-3α-hydroxy-5α-pregnane-11,20-dione
2β-(2-Cyanoethoxy)-3α-hydroxy-5α-pregnane-11,20-dione (430 mg.) was dissolved in absolute ethanol (50 ml) and dry hydrogen chloride passed through the solution until saturation occurred. The mixture was left for one-fourth hour then poured into water (250 ml.). After one-half hour the precipitate formed was extracted into ether (2 × 100 ml), the ethereal solution washed with water and dried over anhydrous sodium sulphate. The dried solution was evaporated to a white form (320 mg) which was purified by preparative T.L.C. using ethyl acetate/petrol (4/1) run twice. The main band (Rf[0.4) gave title compound (140 mg) as an oil. [α]D + 61°(c, 0.5%).

reactant | 2β-(2-Cyanoethoxy)-3α-hydroxy-5α-pregnane-11,20-dione | 430 mg | C(#N)CCO[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]2(C1)C)=O)C)O | C24H35NO4
reactant | hydrogen chloride | Cl | ClH
reactant | water | 250 ml | O | H2O
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | 2β-(2-ethoxycarbonylethoxy)-3α-hydroxy-5α-pregnane-11,20-dione | 140 mg | C(C)OC(=O)CCO[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]2(C1)C)=O)C)O | C26H40O6
